US04602016
Sodium hydride (14.4 g, 50% suspension in mineral oil) was added cautiously to a stirred and cooled solution of imidazole (20.4 g) in dry N,N-dimethylformamide (100 ml). After the initial vigorous reaction had subsided the mixture was heated to 100° C. for 10 minutes and then stirred at room temperature for a further 1 hour. A solution of 4-(2-chloroethoxy)benzamide (60.0 g) in the minimum volume of N,N-dimethylformamide was added and the mixture was heated at 100° C. for 5.5 hours. The solvent was evaporated and the residue was poured into water. The mixture was extracted several times with chloroform and the combined chloroform extracts were dried (MgSO4) and evaporated to give a mixture of oil and solid. The mixture was triturated with ether and the solid was collected and crystallised from a mixture of methanol and ethyl acetate to give 1-[2-(4-carbamoyl phenoxy)ethyl]imidazole (35.2 g), m.p. 148°-149° C. Found: C, 62.25; H, 5.61; N, 18.54. C12H13N3O2 requires: C, 62.32; H, 5.67; N, 18.17%.

reactant | Sodium hydride | 14.4 g | [H-].[Na+]
reactant | imidazole | 20.4 g | N1C=NC=C1 | C3H4N2
reactant | 4-(2-chloroethoxy)benzamide | 60.0 g | ClCCOC1=CC=C(C(=O)N)C=C1 | C9H10ClNO2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-carbamoyl phenoxy)ethyl]imidazole | 35.2 g | C(N)(=O)C1=CC=C(OCCN2C=NC=C2)C=C1 | C12H13N3O2
